US09079889B2
To a solution of 3-fluoro-6-methyl-2-(2,3,5-trifluorophenyl)pyridine (1.0 equiv.) in water and t-BuOH (2:1, 0.06 M) was added potassium permanganate (10 equiv.) and the solution was heated at 90° C. for 5 hours. Upon cooling to room temperature, the solution was filtered, and the filtrate was concentrated under reduced pressure to yield 5-fluoro-6-(2,3,5-trifluorophenyl)picolinic acid in 89% yield. LC/MS=272.0 (M+H), Rt=0.80 min.

reactant | 3-fluoro-6-methyl-2-(2,3,5-trifluorophenyl)pyridine | 1.0 equiv. | FC=1C(=NC(=CC1)C)C1=C(C(=CC(=C1)F)F)F | C12H7F4N
reactant | potassium permanganate | 10 equiv. | [Mn](=O)(=O)(=O)[O-].[K+]
reactant | water | O | H2O
solvent | t-BuOH | 0.06 M | CC(C)(C)O | C4H10O
product | 5-fluoro-6-(2,3,5-trifluorophenyl)picolinic acid | 89% yield | FC=1C=CC(=NC1C1=C(C(=CC(=C1)F)F)F)C(=O)O | C12H5F4NO2
